US06323235B1
7-methoxy-2-methyl-2,3-dihydrobenzofuran-3-one
Methyl 7-methoxy-2-methyl-3-oxo-2,3-dihydrobenzofuran-2-carboxylate (18.38 g) was dissolved in dioxane-water (5:1, 300 ml) and 0.5 N sulfuric acid (37 ml) was added to the solution, followed by refluxing the resulting solution for 16 hours. The reaction solution was concentrated and poured into water layer (300 ml), followed by extracting the resultant three times with ether (150 ml). The organic layers were combined and washed with saturated aqueous sodium hydrogen carbonate solution and with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=9/1-5/1) using florisil to obtain the desired compound (4.69 g, yield: 36%).

reactant | Methyl 7-methoxy-2-methyl-3-oxo-2,3-dihydrobenzofuran-2-carboxylate | 18.38 g | COC1=CC=CC=2C(C(OC21)(C(=O)OC)C)=O | C12H12O5
reactant | sulfuric acid | 0.5 N, 37 ml | S(O)(O)(=O)=O | H2O4S
solvent | dioxane water | 300 ml | O1CCOCC1.O
product | 7-methoxy-2-methyl-2,3-dihydrobenzofuran-3-one | 4.69 g, yield: 36% | COC1=CC=CC=2C(C(OC21)C)=O | C10H10O3
